US08349824B2
A mixture of 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (150 mg, 0.404 mmole), diethylamine (250 ul, 2.42 mmole), N-ethyldiisopropylamine (282 ul, 1.62 mmole) and propylphosphonic acid cyclic anhydride (50% in ethyl acetate, 606 ul, 1.01 mmole) in tetrahydrofurane (5 ml) is stirred for 22 h at 70° C. The solvent is removed under reduced pressure and the residue is triturated for 1 hr with sat. aqueous sodium bicarbonate solution (30 ml). The solid is collected by filtration, washed with water and dried affording N4,N4-diethyl-1-methyl-N5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (140 mg, 81.3%) as a white solid. Mp.: 165-7° C. MS: m/z=427.4 (M+H+).

reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 0.404 mmole, 150 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
reactant | diethylamine | 2.42 mmole, 250 ul | C(C)NCC | C4H11N
reactant | N-ethyldiisopropylamine | 1.62 mmole, 282 ul | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | N4,N4-diethyl-1-methyl-N5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 140 mg, 81.3% | C(C)N(C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)C)CC | C20H26N8O3
